US04055595
A mixture of (±)-methyl 2-[4-(4-chlorophenyl)phenoxy]3,3,3-trifluoro-2-methylpropionate (20 g.), methanol (120 ml.) and 5.2 N-aqueous potassium hydroxide (13 ml.) is stirred at ambient temperature for 18 hours. Most of the methanol is evaporated in vacuo, and water is added. The mixture is washed with light petroleum, and concentrated hydrochloric acid added to the aqueous phase. The mixture is extracted with ether, and the extract is dried with sodium sulphate, treated with carbon and evaporated. The residue is crystallised from toluene to give (±)-2[4-(4-chlorophenyl)phenoxy]-3,3,3-trifluoro-2-methylpropionic acid, m.p. 198°-199° C. (8.35 g.).

reactant | (±)-methyl 2-[4-(4-chlorophenyl)phenoxy]3,3,3-trifluoro-2-methylpropionate | 20 g | ClC1=CC=C(C=C1)C1=CC=C(OC(C(=O)OC)(C(F)(F)F)C)C=C1 | C17H14ClF3O3
reactant | potassium hydroxide | 13 ml | [OH-].[K+]
solvent | methanol | 120 ml | CO | CH4O
product | (±)-2[4-(4-chlorophenyl)phenoxy]-3,3,3-trifluoro-2-methylpropionic acid | ClC1=CC=C(C=C1)C1=CC=C(OC(C(=O)O)(C(F)(F)F)C)C=C1 | C16H12ClF3O3
